US07683185B2
6-(4-(4-Chlorobenzenesulfonylamino)phenylsulfanyl)-hexanoic acid hydroxamide (29g).
To a solution of the 6-(4-(4-chlorobenzenesulfonylamino)-phenylsulfanyl)-hexanoic acid methyl ester (300 mg, 0.7 mmol) in distilled THF (10 mL) containing 50% aqueous hydroxylamine (0.4 mL, 6.3 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1.2 mL, 1M, 1.2 mmol) in a dropwise manner. After stirring at 0° C. for 1 h, distilled water (10 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The aqueous solution was extracted with ethyl acetate (2×15 mL) and the combined extracts were washed with brine (15 mL), dried over anhydrous MgSO4, filtered and evaporated to dryness. The solid residue was recrystallised from ethyl acetate/diethyl ether to give the title compound (200 mg, 66%) as a white powder, mp 160-163° C.

reactant | 6-(4-(4-chlorobenzenesulfonylamino)-phenylsulfanyl)-hexanoic acid methyl ester | 0.7 mmol, 300 mg | COC(CCCCCSC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C19H22ClNO4S2
reactant | hydroxylamine | 6.3 mmol, 0.4 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 1.2 mmol, 1M, 1.2 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(4-(4-Chlorobenzenesulfonylamino)phenylsulfanyl)-hexanoic acid | 200 mg, 66% | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)SCCCCCC(=O)O | C18H20ClNO4S2
